US07943669B2
Step B: {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2,5-dimethyl-phenoxy}-acetic Acid
{4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2,5-dimethylphenoxy}-acetic acid ethyl ester (350 mg; 0.68 mmol) was dissolved in ethanol (15 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness and purified by prep HPLC (method B). Yield: 250 mg; 76%. HPLC-MS: m/z: 484.6 (M+H)+; Rt: 1.87 min.

reactant | {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2,5-dimethylphenoxy}-acetic acid ethyl ester | 0.68 mmol, 350 mg | C(C)OC(COC1=C(C=C(C(=C1)C)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC(C)C)C)=O | C29H37NO5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | {4-[3-Isobutoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2,5-dimethyl-phenoxy}-acetic Acid | C(C(C)C)OC=1C=C(C=C(C1)C#CCN1CCOCC1)SC1=CC(=C(OCC(=O)O)C=C1C)C | C27H33NO5S
